US07632861B2
2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanamine.
To a solution of 2-(2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethyl)isoindoline-1,3-dione (250 mg, 0.455 mmol) in ethanol (2 mL) was added hydrazine (0.100 mL, 3.2 mmol). The resulting solution was heated to 45° C. and held there for 3 h. The reaction was cooled to room temperature, diluted with ether, and filtered to remove the precipitate which was discarded. Concentration of the mother liquor gave 175 mg (92%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.74 (s, 1H), 7.63 (s, 2H), 7.28 (m, 2H), 7.21 (m, 1H), 7.16 (m, 1H), 5.11 (s, 2H), 4.61 (qAB, JAB=12.8 Hz, 2H), 3.65 (qAB, JAB=9.8 Hz, 2H), 2.73 (m, 1H), 2.54 (m, 1H), 2.13 (ddd, J=14.4, 8.6, 5.8 Hz, 1H), 2.00 (ddd, J=14.3, 8.6, 5.8 Hz, 1H), 1.55 (bs, 2H); 13C-NMR (CDCl3, 126 MHz) δ 141.4, 141.3, 139.9, 131.7 (q, J=33.6 Hz), 128.2, 127.5, 127.1, 123.4 (q, J=273 Hz), 121.7, 121.4, 121.1, 90.0, 76.8, 72.8, 72.0, 40.4, 37.4. Mass spec.: 420.14 (MH)+. Accurate mass spec.: m/z 420.1391 [MH]+, Δ=1.7 ppm.

reactant | 2-(2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethyl)isoindoline-1,3-dione | 0.455 mmol, 250 mg | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)C(F)(F)F)(F)F | C28H21F6NO4
reactant | hydrazine | 3.2 mmol, 0.100 mL | NN | H4N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanamine | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCN)C=C(C1)C(F)(F)F)(F)F | C20H19F6NO2
